US05066675
2-Butynyl 2-(4-chlorophenyl)-3,3-dimethylbutyrate
To a solution of 2.43 ml 0.0325 mol) but-2-yn-1-ol and 3.97 g (0.0325 mol of 4-dimethylaminopyridine in 35 ml tetrahydrofuran is added dropwise, at 0°-5° C., a solution of 7.95 g 0.0325 mol 2-(4-chlorophenyl-3,3-dimethylbutyryl chloride in 25 ml tetrahydrofuran. The reaction mixture was allowed to warm to room temperature and after one and a half hours worked up as follows: after removal of the tetrahydrofuran in vacuo, it was treated with water and stirred with ether, the ether phase was dried over magnesium sulphate and concentrated in vacuo. A colourless oil was obtained.

reactant | but-2-yn-1-ol | C(C#CC)O | C4H6O
reactant | 4-chlorophenyl-3,3-dimethylbutyryl chloride | ClC1=CC=C(C=C1)CC(CC(=O)Cl)(C)C | C12H14Cl2O
reactant | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.0325 mol | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-Butynyl 2-(4-chlorophenyl)-3,3-dimethylbutyrate | ClC1=CC=C(C=C1)C(C(=O)OCC#CC)C(C)(C)C | C16H19ClO2
